US04046798
A solution of sodium nitrite (39 g.) in water (85 ml.) is added over 1 hour to a solution of 5-amino-3,4-dichloro-α,α,α-trifluorotoluene (117.5 g., 0.51 mol) in 1700 ml. concentrated hydrochloric acid at -6° C. and the solution stirred for 1 hour then filtered. The filtrate is added to a solution of cuprous chloride (76.5 g.) in concentrated hydrochloric acid (500 ml.) over 5 minutes at 0° to 8° C. and gradually heated to 80° C. over 80 minutes. The reaction mixture is cooled to 35° C. and extracted with hexane (2 × 300 ml.). The extract is washed with water, 2% sodium hydroxide solution, dried and distilled to give 3,4,5-trichloro-α,α,α-trifluorotoluene (70 g., 55%) b.p. 82°-86° C./10 mm, 95% pure.

reactant | sodium nitrite | 39 g | N(=O)[O-].[Na+]
reactant | 5-amino-3,4-dichloro-α,α,α-trifluorotoluene | 0.51 mol, 117.5 g | NC=1C(=C(C=C(C1)C(F)(F)F)Cl)Cl | C7H4Cl2F3N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 85 ml | O | H2O
product | 3,4,5-trichloro-α,α,α-trifluorotoluene | 70 g, 55% | ClC=1C=C(C=C(C1Cl)Cl)C(F)(F)F | C7H2Cl3F3
